US04874775
N-(2-fluorobenzyl)-N-(pyridin-4-ylmethyl)methanesulfonamide
A 4.2 g. portion of 4-(2-fluorobenzylaminomethyl)pyridine was dissolved in 50 ml. of dichloromethane, and to it was added 3 g. of potassium carbonate and 2.5 g. of methanesulfonyl chloride. The mixture was stirred at ambient temperature for 4 days, and was then diluted with 50 ml. of water and extracted with 150 ml. of dichloromethane. The organic phase was dried over magnesium sulfate, and concentrated under vacuum. The oily residue was chromatographed on silica gel, eluting with 3:2 toluene:acetone. The product-containing fractions were evaporated to obtain an oil which solidified upon standing, and was triturated with petroleum ether to obtain 3.25 g. of the desired product, m.p. 69°-70°.

reactant | 4-(2-fluorobenzylaminomethyl)pyridine | FC1=C(CNCC2=CC=NC=C2)C=CC=C1 | C13H13FN2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-fluorobenzyl)-N-(pyridin-4-ylmethyl)methanesulfonamide | FC1=C(CN(S(=O)(=O)C)CC2=CC=NC=C2)C=CC=C1 | C14H15FN2O2S
